US07915443B2
(S)-5-({4-[(4-fluorobenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 449, N-(4-ethynyl-phenyl)-4-fluoro-benzamide (0.106 g, 0.443 mmol) and 5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (100 mg, 0.295 mmol) were reacted to give the title compound as a solid (106 mg, 72%).

reactant | N-(4-ethynyl-phenyl)-4-fluoro-benzamide | 0.443 mmol, 0.106 g | C(#C)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)F)=O | C15H10FNO
reactant | 5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 100 mg | BrC=1C=NC=C(C(=O)N=S(C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
product | (S)-5-({4-[(4-fluorobenzoyl)amino]phenyl}ethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 106 mg, 72% | FC1=CC=C(C(=O)NC2=CC=C(C=C2)C#CC=2C=NC=C(C(=O)N=[S@](C3=CC=CC=C3)(=O)C)C2)C=C1 | C28H20FN3O3S
